US05189045
N-{1-[(2,3-dihydrobenzofuran-2-yl)-methyl]-piperid-4-yl}-N-methylpropionamide hydrochloride
5.1 g of N-piperid-4-yl-N-methylpropionamide acetate, 90 ml of dimethylformamide and 6.3 ml of triethylamine are introduced into a 250 ml three-necked flask. 6.6 g of 2,3-dihydro-2-iodomethylbenzofuran are poured onto the mixture which is heated to 60°-65° C. This temperature is maintained for 15 hours. The reaction mixture is evaporated to dryness and the residue is taken up in ethyl acetate and extracted with 150 ml of N hydrochloric acid. The aqueous phase is rendered alkaline with sodium hydroxide in the presence of ethyl acetate. The organic phase is washed with water and dried over magnesium sulphate. The solvent is evaporated to yield a base in the form of a brown oil, which is converted into a salt with 3.8N ethereal hydrogen chloride to yield the desired compound.

reactant | N-piperid-4-yl-N-methylpropionamide acetate | 5.1 g | C(C)(=O)O.N1CCC(CC1)N(C(CC)=O)C
reactant | dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
reactant | 2,3-dihydro-2-iodomethylbenzofuran | 6.6 g | ICC1OC2=C(C1)C=CC=C2 | C9H9IO
reactant | hydrogen chloride | 3.8N | Cl | ClH
solvent | triethylamine | 6.3 ml | C(C)N(CC)CC | C6H15N
product | N-{1-[(2,3-dihydrobenzofuran-2-yl)-methyl]-piperid-4-yl}-N-methylpropionamide hydrochloride | Yield: 30% | Cl.O1C(CC2=C1C=CC=C2)CN2CCC(CC2)N(C(CC)=O)C | InChI=1S/C18H26N2O2.ClH/c1-3-18(21)19(2)15-8-10-20(11-9-15)13-16-12-14-6-4-5-7-17(14)22-16;/h4-7,15-16H,3,8-13H2,1-2H3;1H
